US07351719B2
143) N-[2-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide
0.141 mL (1.080 mmol) chloroformic acid-isopropylester was added dropwise at −10° C. to a solution of 0.254 g (0.982 mmol) (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and 0.119 mL (1.080 mmol) N-methylmorpholine in 20 mL abs. THF and the mixture was stirred for a further 10 min. 0.250 g (1.031 mmol) 2-chloro-4-(2-diethylamino-ethoxy)-phenylamine (Z27b) was added, the mixture was stirred for 1 h at RT and then evaporated down i. vac. Water was added and the aqueous phase was exhaustively extracted with dichloromethane. The combined org. phases were dried over sodium sulphate, evaporated down i. vac. and the residue stirred with ether. The precipitate was filtered off, washed with ether and dried in a HV.

reactant | chloroformic acid-isopropylester | 1.080 mmol, 0.141 mL | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | 0.982 mmol, 0.254 g | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | N-methylmorpholine | 1.080 mmol, 0.119 mL | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4-(2-diethylamino-ethoxy)-phenylamine | 1.031 mmol, 0.250 g | ClC1=C(C=CC(=C1)OCCN(CC)CC)N | C12H19ClN2O
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-chloro-4-(2-diethylamino-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl -phenoxy)-acetamide | ClC1=C(C=CC(=C1)OCCN(CC)CC)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C21H23Cl2F3N2O3
